US04220647
N-benzyloxycarbonyl-p-toluidinoacetaldehyde diethyl acetal (6 g) and 3,4-dihydroxyphenethylamine hydrochloride (2.5 g) were added to a mixture of n-butyl alcohol (60 ml) and water (8.5 ml) and then the mixture was refluxed for 9.5 hours in a stream of nitrogen. In the course of the reaction, the above-mentioned acetal (0.6 g) was twice added to the mixture, after 5 hours and after 7.5 hours from the beginning of the reaction. The reaction mixture was concentrated and the residue was washed with ether and dissolved in hot water (300 ml). After the insoluble material was filtered off, the filtrate was washed with ethyl acetate and treated with activated charcoal. The aqueous layer was concentrated to dryness to give amorphous 1-(N-benzyloxycarbonyl-p-toluidinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (3.8 g), mp 125° C. (dec).

reactant | N-benzyloxycarbonyl-p-toluidinoacetaldehyde diethyl acetal | 6 g | C(C)OC(CN(C1=CC=C(C=C1)C)C(=O)OCC1=CC=CC=C1)OCC | C21H27NO4
reactant | 3,4-dihydroxyphenethylamine hydrochloride | 2.5 g | Cl.OC=1C=C(CCN)C=CC1O
reactant | n-butyl alcohol | 60 ml | C(CCC)O | C4H10O
solvent | water | 8.5 ml | O | H2O
product | 1-(N-benzyloxycarbonyl-p-toluidinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 3.8 g | Cl.C(C1=CC=CC=C1)OC(=O)N(C1=CC=C(C=C1)C)CC1NCCC2=CC(=C(C=C12)O)O | InChI=1S/C25H26N2O4.ClH/c1-17-7-9-20(10-8-17)27(25(30)31-16-18-5-3-2-4-6-18)15-22-21-14-24(29)23(28)13-19(21)11-12-26-22;/h2-10,13-14,22,26,28-29H,11-12,15-16H2,1H3;1H
